US06429288B1
T-Ada-SAW
The title compound was synthesized by solid-phase methodology on a SyRo II multiple peptide synthesizer (MultiSynTech, Bochum) on a 0.03 mmol scale using Fmoc-L-Trp-trityl-polystyrene(1%)divinylbenzene resin (Fmoc-L-Trp-TCP; loading: 0.57 mmol/g; PepChem, Tübingen) as starting material. The α-amino groups of the proteinogenic amino acids Ala and Ser were protected by 9-fluorenylmethoxycarbonyl (Fmoc), the side chain hydroxy group of Ser by tert.-butyl. The non-proteinogenic amino acid Ada was used as Fmoc-Ada(Boc2)-OH (from example2). The Fmoc-protected amino acids were coupled in a 6-fold excess for 30 min in DMF. TBTU (1 eq) and NMM (1 eq) were used as activating reagents. Cleavage of the Fmoc group was carried out in piperidine/dimethylformamide (1:1v/v) for 2×10 min. Coupling of Boc-Ada(Boc2)-OH and Thr was performed manually in DMF within 1 h by using 0.048 mmol of the protected amino acid Boc-Ada(Boc2)-OH (1.65-fold excess) and a 6 fold excess in the case of Thr. Equimolar amounts of TBTU and NMM were used for activation. The peptide was cleaved from the resin with 750 ul of acetic acid/trifluoroethanol/dichloromethane (30:10:70) within 2 h. After washing five times with 150 ul of the same solvent mixture the filtrates were combined, diluted with 10 ml heptane and concentrated. This procedure was repeated twice in order to remove the acetic acid completely. The oily residue was dissolved in 5 ml 4 N hydrogen chloride in dioxane. To this solution 270 ul ethanedithiol were added and the mixture was stirred for 3 h at room temperature. Then the solvent was removed and the residue dissolved in heptane and concentrated again several times until the ethanedithiol was almost completely removed. The crude peptide was lyophilized from tert.-butanol/water (1:1) and purified by preparative HPLC to yield 2.6 mg T-Ada-SAW as colorless lyophilisate (purity by HPLC >98%). ESI-MS: m/z 644.3 M+

reactant | TBTU | 1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | 1 eq | CN1CCOCC1 | C5H11NO
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | acetic acid trifluoroethanol dichloromethane | 750 ul | C(C)(=O)O.C(C(F)(F)F)O.ClCCl
solvent | DMF | CN(C)C=O | C3H7NO
solvent | piperidine dimethylformamide | N1CCCCC1.CN(C=O)C
product | T-Ada | 2.6 mg | C1[C@@H](N[C@H]1C(=O)O)C(=O)O | C5H7NO4
